US06200999B1
6) (RS)-2-Amino-3-(5-carboxy-3-methoxyisoxazol-4-yl)propionic Acid Hydrate (Comp. 1)
A suspension of ethyl 2-acetamido-2-(ethoxycarbonyl)-3-[5-(ethoxycarbonyl)-3-methoxyisoxazol-4-yl]propionate (1.2 g, 3.0 mmol) in 0.5 M HCl (100 mL) was boiled under reflux for 48 h. The mixture was cooled, washed with dichloromethane (100 mL) and diethyl ether (2×100 mL), filtered and concentrated in vacuo. Water was added (5 mL) and the pH adjusted to about 3 by addition of NaOH (0.1 M and 1 M). The aqueous phase was reduced in vacuo (2 mL) and a precipitate collected by filtration. The precipitate was stirred in water (2 mL) at room temperature for 24 h affording Comp. 1 after filtration (70 mg, 10%): mp 222-225° C. (dec); 1H NMR (DMSO-d6) δ2.88 (dd, 1 H), 3.01 (dd, 1 H), 3.85-3.96 (m, 1 H), 3.90 (s, 3 H); 13C NMR (DMSO-d6) d 22.70, 52.38, 57.32, 103.25, 159.43, 165.95, 170.66 (2 C); MS ((M+H)+) m/z 231. Anal. (C8H10N2O6.0.25H2O) calcd, C, 40.94; H, 4.51; N, 11.94; found, C, 41.01; H, 4.37; N, 11.91.

reactant | ethyl 2-acetamido-2-(ethoxycarbonyl)-3-[5-(ethoxycarbonyl)-3-methoxyisoxazol-4-yl]propionate | 3.0 mmol, 1.2 g | C(C)(=O)NC(C(=O)OCC)(CC=1C(=NOC1C(=O)OCC)OC)C(=O)OCC | C17H24N2O9
solvent | HCl | 0.5 M, 100 mL | Cl | ClH
product | (RS)-2-Amino-3-(5-carboxy-3-methoxyisoxazol-4-yl)propionic Acid Hydrate | O.NC(C(=O)O)CC=1C(=NOC1C(=O)O)OC | InChI=1S/C8H10N2O6.H2O/c1-15-6-3(2-4(9)7(11)12)5(8(13)14)16-10-6;/h4H,2,9H2,1H3,(H,11,12)(H,13,14);1H2
